US07109229B2
(b) 1,5-Dimethyl-7-bromoindole
To a suspension of sodium hydride (60%, 0.91 g, 22.9 mmol) in DMF (70 mL) was added a solution of 5-methyl-7-bromoindole (4.0 g, 19.05 mmol) in DMF (10 mL). The mixture was stirred at room temperature for 1 h, and then methyl iodide (1.78 mL, 28.6 mmol) was added with cooling in an ice-water-bath. The reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction was quenched with water and extracted with ethyl acetate. The extract was washed with water and brine, dried (sodium sulfate) and concentrated to give a crude product (4.1 g, 96%), which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 2.38 (s, 3H), 4.12 (s, 3H), 6.36 (d, J=3.12 Hz, 1H), 6.95 (d, J=3.13 Hz, 1H), 7.18 (d, J=1.56 Hz, 1H), 7.31 (dd, J1=0.79 Hz, J2=1.56 Hz, 1H).

reactant | sodium hydride | 22.9 mmol, 0.91 g | [H-].[Na+]
reactant | 5-methyl-7-bromoindole | 19.05 mmol, 4.0 g | CC=1C=C2C=CNC2=C(C1)Br | C9H8BrN
reactant | methyl iodide | 28.6 mmol, 1.78 mL | CI | CH3I
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1,5-Dimethyl-7-bromoindole | 4.1 g, 96% | CN1C=CC2=CC(=CC(=C12)Br)C | C10H10BrN
